US04820705
4-(2-p-Fluorobenzenesulphonamido-indan-5-yl)-4-oxobutyric acid
Prepared analogously to Example 2 from methyl 4-(2-p-fluorobenzenesulphonamido-indan-5-yl)-4-oxobutyrate by hydrolysis with sodium hydroxide.

reactant | methyl 4-(2-p-fluorobenzenesulphonamido-indan-5-yl)-4-oxobutyrate | FC1=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(CCC(=O)OC)=O | C20H20FNO5S
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-(2-p-Fluorobenzenesulphonamido-indan-5-yl)-4-oxobutyric acid | FC1=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(CCC(=O)O)=O | C19H18FNO5S
